US09212335B2
Synthesis of N,N′-bis(furan-2-ylmethyl)propane-1,2-diamine
This compound was prepared as described in the general method (Method A) with 1,2-diaminopropane (1.00 g, 13.5 mmol), furfural (2.20 g, 22.9 mmol) and NaBH4 (0.52 g, 13.7 mmol) to give 1.90 g of the crude diamine Plug filtration (SiO2, ethyl acetate/ethanol 95:5) of 0.50 g afforded 0.20 g (24%) of the pure product.

reactant | 1,2-diaminopropane | 13.5 mmol, 1.00 g | NCC(C)N | C3H10N2
reactant | furfural | 22.9 mmol, 2.20 g | C(C1=CC=CO1)=O | C5H4O2
reactant | NaBH4 | 13.7 mmol, 0.52 g | [BH4-].[Na+]
product | N,N′-bis(furan-2-ylmethyl)propane-1,2-diamine | 0.20 g, 24% | O1C(=CC=C1)CNCC(C)NCC=1OC=CC1 | C13H18N2O2
